US05708016
Stage A: 1-(4-Cyanobutyl)-3-indolecarboxylic acid benzyl ester
1.1 equivalents of 5-bromovaleronitrile are added to 40 mmol of 3-indolecarboxylic acid benzyl ester dissolved in tetrahydrofuran. After cooling to 0° C., 1.8 g of sodium hydride are added portionwise. After one hour of reaction at 0° C. and 14 hours at room temperature, ethyl acetate and water are added. The organic phase is separated and washed several times in succession with an aqueous phase containing hydrochloric acid followed by a basic aqueous phase. After drying and evaporation, the residue is purified by chromatography on silica gel using an ethyl acetate/pentane (2:3) mixture as solvent, and the expected product is obtained.

reactant | 5-bromovaleronitrile | 1.1 equivalents | BrCCCCC#N | C5H8BrN
reactant | 3-indolecarboxylic acid benzyl ester | 40 mmol | C(C1=CC=CC=C1)OC(=O)C1=CNC2=CC=CC=C12 | C16H13NO2
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-Cyanobutyl)-3-indolecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CN(C2=CC=CC=C12)CCCCC#N | C21H20N2O2
